US05061701
a) Methyl 3α-acetoxy-7-keto-5β-cholanoate
A solution of methyl 3α-hydroxy-7-keto-5β-cholanoate (10 g, 24.72 mmoles) in methylene chloride (40 ml) was added with acetic anhydride (3.79 g, 37.1 mmoles), triethylamine (3.63 g, 36 mmoles) and 4-pyrrolidino-pyridine (0.11 g, 0.74 mmoles) and the reaction mixture was left to react for 3 hours under strong magnetic stirring, then it was diluted with methylene chloride (50 ml) and water (50 ml) and acidified with 10% hydrochloric acid. The organic phase was separated and the aqueous phase was extracted with methylene chloride (3×20 ml). The combined organic phases were washed with brine (1×30 ml), dried over sodium sulfate and concentrated under vacuum. The residue (11.0 g) was subjected to flash chromatography on silica, eluting with methylene chloride/methanol 99:1, to obtain 10.5 g of a pure product (95%).

reactant | methyl 3α-hydroxy-7-keto-5β-cholanoate | 24.72 mmoles, 10 g | O[C@H]1C[C@H]2CC([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)OC)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O | C25H40O4
reactant | acetic anhydride | 37.1 mmoles, 3.79 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 36 mmoles, 3.63 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | 50 ml | O | H2O
catalyst | 4-pyrrolidino-pyridine | 0.74 mmoles, 0.11 g | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
product | Methyl 3α-acetoxy-7-keto-5β-cholanoate | 10.5 g, 95% | C(C)(=O)O[C@H]1C[C@H]2CC([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)OC)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O | C27H42O5
